* D:\Duong\ICTT\LT Spice Project\bai_tap_nhom\week2\Draft4.asc
* Generated by LTspice 26.0.2 for Windows.
M1 N002 N002 0 0 NM l=1u w=1u
V1 N002 0 5
M2 N002 N002 0 0 NM l=2u w=1u
M3 N002 N002 0 0 NM l=3u w=1u
M4 N002 N002 0 0 NM l=4u w=1u
M5 N002 N002 0 0 NM l=5u w=1u
M6 N002 N002 0 0 NM l=6u w=1u
M7 N002 N002 0 0 NM l=7u w=1u
M8 N002 N002 0 0 NM l=8u w=1u
M9 N002 N002 0 0 NM l=9u w=1u
M10 N002 N002 0 0 NM l=10u w=1u
M11 N002 N002 0 0 NM l=90u w=1u
M12 N002 N002 0 0 NM l=100u w=1u
V2 N001 0 5
M13 0 N001 N001 0 PM W=1u L=0.35u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DuongNguyen\AppData\Local\LTspice\lib\cmp\standard.mos
.include"C:\Users\linhd\AppData\Local\LTspice\lib\sym\035_ltspice_lib\5827_035.lib"
.op
.option logopinfo
.backanno
.end
