* D:\Duong\ICTT\LT Spice Project\bai_tap_nhom\week2\PMOS_L.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 5
M1 0 0 N001 N001 PM l=1u w=1u
M2 0 0 N001 N001 PM l=2u w=1u
M3 0 0 N001 N001 PM l=3u w=1u
M4 0 0 N001 N001 PM l=4u w=1u
M5 0 0 N001 N001 PM l=5u w=1u
M6 0 0 N001 N001 PM l=6u w=1u
M7 0 0 N001 N001 PM l=7u w=1u
M8 0 0 N001 N001 PM l=8u w=1u
M9 0 0 N001 N001 PM l=9u w=1u
M10 0 0 N001 N001 PM l=10u w=1u
M11 0 0 N001 N001 PM l=15u w=1u
M12 0 0 N001 N001 PM l=20u w=1u
M13 0 0 N001 N001 PM l=25u w=1u
M14 0 0 N001 N001 PM l=30u w=1u
M15 0 0 N001 N001 PM l=35u w=1u
M16 0 0 N001 N001 PM l=40u w=1u
M17 0 0 N001 N001 PM l=50u w=1u
M18 0 0 N001 N001 PM l=60u w=1u
M19 0 0 N001 N001 PM l=70u w=1u
M20 0 0 N001 N001 PM l=80u w=1u
M21 0 0 N001 N001 PM l=90u w=1u
M22 0 0 N001 N001 PM l=100u w=1u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DuongNguyen\AppData\Local\LTspice\lib\cmp\standard.mos
.include "C:\Users\DuongNguyen\AppData\Local\LTspice\lib\sym\035_ltspice_lib\5827_035.lib"
.op
.option logopinfo
.option numdgt=15
.backanno
.end
