* D:\Duong\ICTT\LT Spice Project\bai_tap_nhom\week2\PMOS_W.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 5
M1 0 0 N001 N001 PM l=5u w=1u
M2 0 0 N001 N001 PM l=5u w=2u
M3 0 0 N001 N001 PM l=5u w=3u
M4 0 0 N001 N001 PM l=5u w=4u
M5 0 0 N001 N001 PM l=5u w=5u
M6 0 0 N001 N001 PM l=5u w=6u
M7 0 0 N001 N001 PM l=5u w=7u
M8 0 0 N001 N001 PM l=5u w=8u
M9 0 0 N001 N001 PM l=5u w=9u
M10 0 0 N001 N001 PM l=5u w=10u
M11 0 0 N001 N001 PM l=5u w=15u
M12 0 0 N001 N001 PM l=5u w=20u
M13 0 0 N001 N001 PM l=5u w=25u
M14 0 0 N001 N001 PM l=5u w=30u
M15 0 0 N001 N001 PM l=5u w=35u
M16 0 0 N001 N001 PM l=5u w=40u
M17 0 0 N001 N001 PM l=5u w=50u
M18 0 0 N001 N001 PM l=5u w=60u
M19 0 0 N001 N001 PM l=5u w=70u
M20 0 0 N001 N001 PM l=5u w=80u
M21 0 0 N001 N001 PM l=5u w=90u
M22 0 0 N001 N001 PM l=5u w=100u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DuongNguyen\AppData\Local\LTspice\lib\cmp\standard.mos
.include "C:\Users\DuongNguyen\AppData\Local\LTspice\lib\sym\035_ltspice_lib\5827_035.lib"
.op
.option logopinfo
.option numdgt=15
.backanno
.end
